US07419995B2
1-[3-(1-methyl-1H-pyrrol-2-yl)phenyl]-N-(Pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide
A mixture of 1-(3-bromophenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide (85 mg, 0.209 mmol), Pd(PPh3)2Cl2 (28 mg, 0.040 mmol) and Ag2O (45 mg, 0.196 mmol) was added in one portion to a flask charged with 1-methyl-2-tributylstannanyl-1H-pyrrole (0.391 g, 1.06 mmol). The flask was evacuated and backfilled with N2 (2×) then charged with anhydrous DMF (3.0 mL). After stirring at rt for 5 min the reaction mixture was heated to 90° C. under N2 for 2 d. Later, the reaction was cooled to rt and treated with 1 M aq KF (3 mL) and stirred overnight at rt. Then filtered through Celite (using MeOH to rinse the Celite) and purified by MDPS to provide the product as a white solid. MS (ES+): m/z 408.46 (100) [MH+].

reactant | 1-(3-bromophenyl)-N-pyridin-3-ylmethyl-1H-benzimidazole-5-carboxamide | 0.209 mmol, 85 mg | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C20H15BrN4O
reactant | 1-methyl-2-tributylstannanyl-1H-pyrrole | 1.06 mmol, 0.391 g | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
catalyst | Pd(PPh3)2Cl2 | 0.040 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-[3-(1-methyl-1H-pyrrol-2-yl)phenyl]-N-(Pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | CN1C(=CC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C25H21N5O
